US09334286B2
Preparation 40: 3-chloro-6-(1-methyl-1H-1,2,3-triazol-5-yl)isoquinoline
A suspension of 6-bromo-3-chloroisoquinoline (60 mg, 0.25 mmol), 1-methyl-1H-1,2,3-triazole (41 mg, 0.50 mmol), Pd(OAc)2 (2.22 mg, 9.9 umol) and KOAc (49 mg, 0.50 mmol) in DMA (4 mL) was stirred at 1500 under microwave irradiation for 60 minutes. The reaction mixture was diluted with brine and extracted with EtOAc. The combined organic layers were washed with water and dried with Na2SO4 and concentrated in vacuo. The residue was purified using Biotage silica gel column chromatography eluting with 40% EtOAc in cyclohexane to afford the title compound as a white solid (19 mg, 31%).

reactant | 6-bromo-3-chloroisoquinoline | 0.25 mmol, 60 mg | BrC=1C=C2C=C(N=CC2=CC1)Cl | C9H5BrClN
reactant | 1-methyl-1H-1,2,3-triazole | 0.50 mmol, 41 mg | CN1N=NC=C1 | C3H5N3
reactant | KOAc | 0.50 mmol, 49 mg | CC(=O)[O-].[K+]
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(OAc)2 | 9.9 umol, 2.22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-chloro-6-(1-methyl-1H-1,2,3-triazol-5-yl)isoquinoline | 19 mg, 31% | ClC=1N=CC2=CC=C(C=C2C1)C1=CN=NN1C | C12H9ClN4
